US08314147B2
(3-Chloro-4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}phenyl)acetic Acid
A solution of ethyl (3-chloro-4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}phenyl)acetate (72 mg, 0.15 mmol) in acetic acid (3 ml) and 2M HCl (3 ml) was heated at 90° C. for 2 hours. On cooling water was added and the mixture filtered. The resulting solid was dried in vac oven, then triturated with ether to afford the title compound as an off-white solid (32 mg). MS (ES+) m/z 464 [M+H]+ (C24H2035Cl3NO4). 1H-NMR (400 MHz, d6-DMSO) δ 3.63 (2H, s), 5.20 (2H, s), 7.17 (1H, dd, J 8.8, J 2.8), 7.25-7.60 (10H, m), 10.18 (1H, s), 12.5 (1H, s).

reactant | ethyl (3-chloro-4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}phenyl)acetate | 0.15 mmol, 72 mg | ClC=1C=C(C=CC1NC(=O)C1=C(C=CC(=C1)OCC1=CC(=CC=C1)Cl)Cl)CC(=O)OCC | C24H20Cl3NO4
reactant | water | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 2M, 3 ml | Cl | ClH
product | (3-Chloro-4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}phenyl)acetic Acid | 32 mg | ClC=1C=C(C=CC1NC(=O)C1=C(C=CC(=C1)OCC1=CC(=CC=C1)Cl)Cl)CC(=O)O | C22H16Cl3NO4
